US06528649B2
(1) 1-Chloro-4-(phenylmethoxy)isoquinoline
To a mixture of 1-chloroisoquinolin-4-ol (2.33 g, 13 mmol) and potassium carbonate (3 g) in anhydrous DMF (50 mL) is added benyl bromide (1.73 mL, 14.5 mmole) dropwise at room temperature. The resulting solution is stirred at room temperature for 48 hours, and then poured into ice water. The precipitate is collected by filtration and washed with water and hexanes, and dried to give the desired product as a white solid (3.25 g, yield: 93%). m.p. 97-98° C.

reactant | 1-chloroisoquinolin-4-ol | 13 mmol, 2.33 g | ClC1=NC=C(C2=CC=CC=C12)O | C9H6ClNO
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benyl bromide | 14.5 mmole, 1.73 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-Chloro-4-(phenylmethoxy)isoquinoline | 3.25 g, yield: 93% | ClC1=NC=C(C2=CC=CC=C12)OCC1=CC=CC=C1 | C16H12ClNO
